US05045552
2-[4-(3-Methoxypropoxy)-3,4-dimethylpyridine-2-yl]methylthio-1H-benzimidazole
A mixture comprising 2.25 g (0.015 mol) of 2-mercaptobenzimidazole, 4.52 g (0.0185 mol) of 2-chloromethyl-4-(3-methoxypropoxy)-3,5-dimethylpyridine, 0.63 g (0.015 mol) of 95% sodium hydroxide and 50 ml of ethanol was stirred at 40° C. for 6 hours. After the completion of the reaction, the reaction mixture was distilled to remove the solvent. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane) to obtain 4.62 g of the title compound as a pale yellow oil.

reactant | 2-mercaptobenzimidazole | 0.015 mol, 2.25 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-chloromethyl-4-(3-methoxypropoxy)-3,5-dimethylpyridine | 0.0185 mol, 4.52 g | ClCC1=NC=C(C(=C1C)OCCCOC)C | C12H18ClNO2
reactant | sodium hydroxide | 0.015 mol, 0.63 g | [OH-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[4-(3-Methoxypropoxy)-3,4-dimethylpyridine-2-yl]methylthio-1H-benzimidazole | 4.62 g | COCCCOC1(C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C)C | C19H25N3O2S
